US04284631
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.70 g.), conc. hydrochloric acid (0.48 g.) and methanol (7 ml.) was stirred at room temperature for 4 hours. After concentrating the resultant solution in vacuo, the residue was dissolved in methanol (10 ml.) and crystallized by adding diisopropyl ether (20 ml.). The precipitates were collected by filtration, washed with a mixture of methanol and diisopropyl ether (1:1) and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 0.58 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 0.70 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C20H24N6O8S2
reactant | hydrochloric acid | 0.48 g | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid dihydrochloride | 0.58 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCN | InChI=1S/C14H16N6O5S2.2ClH/c15-2-3-25-19-8(6-5-27-14(16)17-6)10(21)18-9-11(22)20-7(13(23)24)1-4-26-12(9)20;;/h1,5,9,12H,2-4,15H2,(H2,16,17)(H,18,21)(H,23,24);2*1H/t9?,12-;;/m1../s1
